US04775671
8.10 g (22 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole are dissolved in 30 ml of N,N-dimethylformamide, whereupon the solution is treated with 2.50 g (25 mmol) of cyclopropanecarboxamidoxime and the mixture is heated to 70° for 4.5 hours. The reaction mixture is then poured into 350 ml of water, stirred for 20 minutes and the precipitated product is filtered off under suction. The residue is washed with water and dried. The above residue is dissolved in 30 ml of glacial acetic acid and stirred at 115° for 2.5 hours. The reaction mixture is subsequently evaporated and the residue is chromatographed on silica gel while eluting with ethyl acetate. After evaporation of the eluate there is obtained (S)-8-chloro-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 213°-214°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 22 mmol, 8.10 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | cyclopropanecarboxamidoxime | 25 mmol, 2.50 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | water | 350 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)C3CC3)CCC1)=O | C19H16ClN5O2
